US04453010
4-Hydroxy benzoic acid (13.8 g; 0.10 mole), phenol (10.3 g; 0.11 mole), 98% methane sulphonic acid (50 ml; 75.5 g; 0.8 mole) and cyclohexane (10 ml) were mixed and heated to reflux temperature. The solution was refluxed for 12 hours using a Dean and Stark apparatus (no sampling). The reaction mixture was worked up to give 4,4'-dihydroxy-benzophenone in 70% yield.

reactant | 4-Hydroxy benzoic acid | 0.10 mole, 13.8 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | phenol | 0.11 mole, 10.3 g | C1(=CC=CC=C1)O | C6H6O
reactant | methane sulphonic acid | 0.8 mole, 50 ml, 75.5 g | CS(=O)(=O)O | CH4O3S
solvent | cyclohexane | 10 ml | C1CCCCC1 | C6H12
product | 4,4'-dihydroxy-benzophenone | 70% yield | OC1=CC=C(C(=O)C2=CC=C(C=C2)O)C=C1 | C13H10O3
